US04572912
In a similar manner to Example 22, a mixture of 291 mg of ethyl 3-[4-(6-acetoxy-7-t-butyl-2-methyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate (prepared as described in Preparation 49), 64 mg of thiourea and 1 ml of sulfolane was heated. 5 ml of ethylene glycol monomethyl ether, 1 ml of concentrated hydrochloric acid and 2 ml of water were added, and the resulting mixture was further heated under reflux for 6 hours. Ethyl acetate was then added to the reaction mixture, and the resulting solution was washed with water and dried over anhydrous sodium sulfate. The ethyl acetate was removed by evaporation under reduced pressure, and the resulting residue was subjected to silica gel column chromatography, eluted with a 5:1 by volume mixture of benzene and ethyl acetate, to give 143 mg of the desired 5-[4-(7-t-butyl-6-hydroxy-2-methyl-4-oxochroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione.

reactant | ethyl 3-[4-(6-acetoxy-7-t-butyl-2-methyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate | 291 mg | C(C)(=O)OC=1C=C2C(CC(OC2=CC1C(C)(C)C)(C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)=O | C28H33ClO7
reactant | thiourea | 64 mg | NC(=S)N | CH4N2S
reactant | sulfolane | 1 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 2 ml | O | H2O
solvent | ethylene glycol monomethyl ether | 5 ml | COCCO | C3H8O2
product | 5-[4-(7-t-butyl-6-hydroxy-2-methyl-4-oxochroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | 143 mg | C(C)(C)(C)C1=C(C=C2C(CC(OC2=C1)(C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)=O)O | C25H27NO6S
